### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry): `FinitaryExtensive Scheme`

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/Limits.lean [hunk 1]
```diff
@@ -385,6 +393,27 @@ lemma isPullback_inr_inr_coprodMap {X Y X' Y' : Scheme.{u}}
...
+      dsimp at h₁ h₂ h₁' h₂'
+      refine ⟨(IsOpenImmersion.isPullback _ _ _ _ h₁.symm ?_).flip,
+        (IsOpenImmersion.isPullback _ _ _ _ h₂.symm ?_).flip⟩ <;>
+        ext x <;> obtain ⟨x | x, rfl⟩ := (coprodMk _ _).surjective x <;> simp_all
+    · dsimp
+      refine fun {Z} f ↦ (nonempty_isColimit_binaryCofanMk_of_isCompl _ _ ?_).some
+      rw [Scheme.Hom.opensRange_pullbackFst, Scheme.Hom.opensRange_pullbackFst]
+      convert (isCompl_range_inl_inr X Y).map (CompleteLatticeHom.setPreimage f)
+      simp only [isCompl_iff, disjoint_iff, codisjoint_iff, ← TopologicalSpace.Opens.coe_inj]
+      rfl
```
Comment (robin-carlier) [inline Mathlib/AlgebraicGeometry/Limits.lean]:
```suggestion
      simp [isCompl_iff, disjoint_iff, codisjoint_iff, ← TopologicalSpace.Opens.coe_inj]
```

**Review by robin-carlier — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/CategoryTheory/Extensive.lean [hunk 2]
```diff
@@ -37,11 +39,6 @@ public import Mathlib.CategoryTheory.Limits.VanKampen
   has all pullbacks and is extensive.
 - `CategoryTheory.FinitaryExtensive.isVanKampen_finiteCoproducts`: Finite coproducts in a
   finitary extensive category are van Kampen.
-## TODO
-
-Show that the following are finitary extensive:
-- `Scheme`
-- `AffineScheme` (`CommRingᵒᵖ`)
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Extensive.lean]: This PR adds the instance for `Scheme`. But what about `AffineScheme`?

**Comment by joelriou** [comment]
Thanks!

bors merge
